US06518306B1
4′-Bromo-4-cyclopentyloxy-3-methoxybenzhydrol
To a solution of 1,4-dibromobenzene (25.72 g, 109 mmol) in dry tetrahydrofuran (50 ml) at isopropanolg/dry ice bath temperature under argon was added n-butyl lithium (43.6 ml of 2.5 M solution in hexane, 109 mmol) dropwise. This was stirred for one hour during which time a slurry formed. This slurry was added via cannula to a solution of 3-cyclopentoxy-4-methoxybenzaldehyde (20.0 g, 90.8 mmol) in dry THF (140 ml) at isopropanol/dry ice bath temperature. After one hour, the reaction was allowed to gradually warm to room temperature and stirred for an additional 4 h. The reaction was quenched with water then extracted three times with diethyl ether. The combined organic extract was washed successively with 1% hydrochloric acid, water, brine, then dried and evaporated. Purification by flash chromatography (silica gel, 17% ethyl acetate/83% hexane) provided the title compound as a pale white solid (36.78 g, 100% crude yield). MS (m/e): 359 [(M+1H2O)+]

reactant | 1,4-dibromobenzene | 109 mmol, 25.72 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | n-butyl lithium | 109 mmol, 2.5 M, 43.6 ml | C(CCC)[Li]
reactant | 3-cyclopentoxy-4-methoxybenzaldehyde | 90.8 mmol, 20.0 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
reactant | THF | 140 ml | C1CCOC1 | C4H8O
product | 4′-Bromo-4-cyclopentyloxy-3-methoxybenzhydrol | 36.78 g | BrC1=CC=C(C(C2=CC(=C(C=C2)OC2CCCC2)OC)O)C=C1 | C19H21BrO3
